US08703805B2
Preparation of 2-[({[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methoxy}oxy)methyl]pyridine
NaH (60% in mineral oil, 90 mg, 2.25 mmol) was added at 0° C. to a stirred mixture of [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methanol (222 mg, 0.5 mmol), 2-(bromomethyl)pyridine hydrobromide (190 mg, 0.75 mmol), and anhydrous DMF (5 mL) under N2, the resulting mixture was stirred at it for 4 h. The reaction mixture was poured into ice-water, and extracted with EtOAc. The combined extracts were washed with brine, dried over Na2SO4, and evaporated in vacuo. The crude product was purified by flash chromatography (0-100% EtOAc/hexanes) to give the title compound as a colorless semi-solid (179 mg, 67%). 1HNMR (CDCl3): δ 8.58 (m, 1H), 8.04 (m, 1H), 7.82 (m, 1H), 7.74-7.71 (m, 2H), 7.57-7.44 (m, 6H), 7.20 (m, 2H), 6.76 (m, 2H), 4.78 (m, 4H), 3.08 (s, 3H). MS(ES): 536 [M+H]+.

reactant | NaH | 2.25 mmol, 90 mg | [H-].[Na+]
reactant | [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methanol | 0.5 mmol, 222 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CO | C21H17ClN2O3S2
reactant | 2-(bromomethyl)pyridine hydrobromide | 0.75 mmol, 190 mg | Br.BrCC1=NC=CC=C1
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[({[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methoxy}oxy)methyl]pyridine | 179 mg, 67% | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)COOCC1=NC=CC=C1 | C27H22ClN3O4S2
